US08022063B2
4-Bromo-2-[2,4-dioxothiazolidinylidenemethyl]phenoxyacetic acid ethyl ester.
4-Bromo-2-formylphenoxyacetic acid ethyl ester (2.47 g, 8.7 mmol), 2,4-thiazolidinedione (1.13 g (90%), 8.7 mmol), and ammonium acetate (671 mg, 8.7 mmol) was mixed with toluene (9 mL) in a sealed vial and heated by microwaves to 120° C. for 600 s. After cooling to room temperature and scratching the inside of the glass, the product precipitated out. The precipitate was filtered and washed with toluene to give the title compound as a yellow solid (2.38 g, 71%).

reactant | 4-Bromo-2-formylphenoxyacetic acid ethyl ester | 8.7 mmol, 2.47 g | C(C)OC(COC1=C(C=C(C=C1)Br)C=O)=O | C11H11BrO4
reactant | 2,4-thiazolidinedione | 8.7 mmol, 1.13 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | ammonium acetate | 8.7 mmol, 671 mg | C(C)(=O)[O-].[NH4+]
solvent | toluene | 9 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Bromo-2-[2,4-dioxothiazolidinylidenemethyl]phenoxyacetic acid ethyl ester | 2.38 g, 71% | C(C)OC(COC1=C(C=C(C=C1)Br)C=C1C(NC(S1)=O)=O)=O | C14H12BrNO5S
